US07667041B2
Synthesis of 2,4-difluoro-3-methoxybenzaldehyde
Lithium diisopropyl amide (1.5M cyclohexane solution, 5.6 mL) was added dropwise to a THF (10 mL) solution of 2,6-difluoroanisole (1.00 g) at −72° C. under nitrogen atmosphere, and the reaction solution was agitated for 30 minutes. DMF (2.7 mL) was added to the reaction mixture, the reaction solution was agitated for 30 minutes at −78° C., and then agitated at room temperature for 1 hour. Water and ethyl acetate were added to the reaction mixture, and the organic layer was partitioned. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:hexane-ethyl acetate system) and 433 mg of the title compound was obtained.

reactant | Lithium diisopropyl amide | 1.5M, 5.6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | 2,6-difluoroanisole | 1.00 g | FC1=C(C(=CC=C1)F)OC | C7H6F2O
reactant | DMF | 2.7 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2,4-difluoro-3-methoxybenzaldehyde | 433 mg | FC1=C(C=O)C=CC(=C1OC)F | C8H6F2O2
